US08664401B2
Step C: (2R)-4-[4-(2-fluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
(2R)-4-[4-(2-Fluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (34.7 mg, 69.9 mmol) and pyridinium p-toluenesulfonic acid (8.8 mg, 34.9 mmol) were dissolved in ethanol (277.6 uL) and immersed in a 75° C. oil bath. The reaction was stirred at this temperature for 1 hour and allowed to cool. Water (600 uL) was added to the solution and the reaction was stirred overnight. A solid was collected via filtration and dried under vacuum to afford the title compound as an off-white powder (22 mg, 76.33%). LCMS m/z 413.5 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 3H) 2.11-2.22 (m, 1H) 2.37-2.47 (m, 1H) 3.10 (s, 3H) 3.68-3.79 (m, 1H) 3.82 (s, 3H) 4.05-4.16 (m, 1H) 6.44-6.50 (m, 1H) 6.54 (s, 1H) 6.89 (dd, J=8.68, 2.44 Hz, 1H) 6.97 (dd, J=13.37, 2.44 Hz, 1H) 7.54 (dd, J=8.98, 8.98 Hz, 1H) 7.71 (d, J=7.02 Hz, 1H) 11.14 (br. s., 1H).

reactant | (2R)-4-[4-(2-Fluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 69.9 mmol, 34.7 mg | FC1=C(C=CC(=C1)OC)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C23H29FN2O7S
reactant | pyridinium p-toluenesulfonic acid | 34.9 mmol, 8.8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | Water | 600 uL | O | H2O
solvent | ethanol | 277.6 uL | C(C)O | C2H6O
product | (2R)-4-[4-(2-fluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 22 mg, 76.33% | FC1=C(C=CC(=C1)OC)C1=CC(N(C=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O | C18H21FN2O6S
